US09340506B2
2-(2-Amino-thiazol-4-yl)-2-methyl-propionic acid ethyl ester
2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-2-methyl-propionic acid ethyl ester (1.5 g, 3.45 mmol) was refluxed in 15 mL of trifluoroacetic acid for 18 hrs. Trifluoroacetic acid was removed in vacuo and the residue was partitioned between water (50 mL) and ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with brine and dried over anhydrous sodium sulphate and the solvent was removed in vacuo to get the solid product (0.7 g).

reactant | 2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-2-methyl-propionic acid ethyl ester | 3.45 mmol, 1.5 g | C(C)OC(C(C)(C)C=1N=C(SC1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C22H30N2O5S
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(2-Amino-thiazol-4-yl)-2-methyl-propionic acid ethyl ester | 0.7 g | C(C)OC(C(C)(C)C=1N=C(SC1)N)=O | C9H14N2O2S
